US05811439
The same procedures used in Example 7 were repeated except for using 2.00 g of indole-3-carbaldehyde instead of the indole-4-carbaldehyde used in Example 7 and 2.35 g of 2-phenethyl bromide to give 3.34 g of 1-phenethylindole-3-carbaldehyde as a brown oily substance. The yield thereof was found to be 97%.

reactant | indole-3-carbaldehyde | 2.00 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 2-phenethyl bromide | 2.35 g | C1=CC=C(C=C1)CCBr | C8H9Br
product | 1-phenethylindole-3-carbaldehyde | 3.34 g | C(CC1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=O | C17H15NO
